US07183306B2
To a solution of 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenyl}ethyl acetate (10 g) in THF (120 ml) and MeOH (30 ml) was added 1NNaOH (60 ml) at room temperature. The reaction mixture was stirred at the same temperature for 4 hrs, and then neutralized with 1NHCl (60 ml), evaporated, and extracted twice with EtOAc. The organic layer was washed with water and brine, dried over MgSO4, filtered and evaporated to give crude product. The residue was column chromatographed on silica gel and crystalized from IPE and filtered to give 3.0 g of 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1-H-pyrazol-5-yl]phenyl}ethanol. The filtrate was evaporated and filtered to give 4.65 g of second crystal.

reactant | 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenyl}ethyl acetate | 10 g | C(C)(=O)OCCC1=CC=C(C=C1)C1=CC(=NN1C=1C=NC(=CC1)OC)C(F)F | C20H19F2N3O3
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | MeOH | 30 ml | CO | CH4O
product | 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1-H-pyrazol-5-yl]phenyl}ethanol | 3.0 g | FC(C1=NN(C(=C1)C1=CC=C(C=C1)CCO)C=1C=NC(=CC1)OC)F | C18H17F2N3O2
